US07989457B2
Step G. 1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-ol
To an ethanol (2 mL) solution of 1-(4′-trifluoromethyl-biphenyl-4-yl)-butan-2-one (0.093 g, 0.32 mmol) is added sodium borohydride (0.048 g, 1.27 mmol) at 0° C. The reaction mixture is stirred one hour at 0° C., quenched by saturated sodium bicarbonate solution (1 mL) and stirred for five minutes, extracted with ethyl acetate. Organic phase is washed with saturated sodium bicarbonate and brine dried over sodium sulfate, filtered and concentrated to give 0.088 g (0.30 mmol, 94%) of title compound.

reactant | 1-(4′-trifluoromethyl-biphenyl-4-yl)-butan-2-one | 0.32 mmol, 0.093 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)=O)(F)F | C17H15F3O
reactant | sodium borohydride | 1.27 mmol, 0.048 g | [BH4-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-ol | 0.30 mmol, 0.088 g, 94% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)O)(F)F | C17H17F3O
